data/polar.json
{"reaction_name": "Anionic nucleophile capture of a preformed localized carbocation", "rsmi": "[cH:1]1[cH:28][cH:9][c:11]([C-:4]([C:16]([O:2][CH2:12][CH3:26])=[O:31])[C:17]([O:3][CH2:13][CH3:27])=[O:30])[cH:10][cH:29]1.[cH:5]1[c:14]([CH+:34][c:15]2[cH:6][c:20]([F:24])[cH:33][c:21]([F:25])[cH:7]2)[cH:8][c:18]([F:22])[cH:32][c:19]1[F:23]>>[cH:1]1[cH:28][cH:9][c:11]([C:4]([C:16]([O:2][CH2:12][CH3:26])=[O:31])([C:17]([O:3][CH2:13][CH3:27])=[O:30])[CH:34]([c:14]2[cH:5][c:19]([F:23])[cH:32][c:18]([F:22])[cH:8]2)[c:15]2[cH:6][c:20]([F:24])[cH:33][c:21]([F:25])[cH:7]2)[cH:10][cH:29]1", "epd": [["LP-/Sigma+", [4], [4, 34]]]}
{"reaction_name": "Electrophilic fluorination", "rsmi": "[O:1]=[S:24](=[O:2])([N:22]([F:21])[S:23](=[O:3])(=[O:4])[c:38]1[cH:13][cH:27][cH:19][cH:30][cH:16]1)[c:39]1[cH:14][cH:28][cH:20][cH:29][cH:15]1.[cH:5]1[cH:9][c:33]([CH:7]=[C:37]2[CH:34]=[CH:17][C:31](=[N+:32]([O-:25])[O-:26])[CH:18]=[CH:35]2)[cH:10][cH:6][c:11]1[N+:36](=[O:8])[O-:12]>>[O:1]=[S:24](=[O:2])([N-:22][S:23](=[O:3])(=[O:4])[c:38]1[cH:13][cH:27][cH:19][cH:30][cH:16]1)[c:39]1[cH:14][cH:28][cH:20][cH:29][cH:15]1.[cH:5]1[cH:9][c:33]([CH:7]([F:21])[c:37]2[cH:34][cH:17][c:31]([N+:32](=[O:25])[O-:26])[cH:18][cH:35]2)[cH:10][cH:6][c:11]1[N+:36](=[O:8])[O-:12]", "epd": [["LP-/Pi+", [25], [32, 25]], ["Pi-/Pi+", [31, 32], [17, 31]], ["Pi-/Pi+", [34, 17], [37, 34]], ["Pi-/Sigma+", [7, 37], [7, 21]], ["Sigma-/LP+", [21, 22], [22]]]}
{"reaction_name": "Aza-Michael–cyclization sequence", "rsmi": "[C:2]([C:3](=[O:5])[CH3:7])(=[CH2:4])[H:11].[CH3:6][N-:8][H:12].[O:1]([H:9])[H:10]>>[C:2]([C:3](=[O:5])[CH3:7])([CH2:4][N:8]([CH3:6])[H:12])([H:9])[H:11].[O-:1][H:10]", "epd": [["LP-/Sigma+", [8], [4, 8]], ["Pi-/Sigma+", [2, 4], [2, 9]], ["Sigma-/LP+", [1, 9], [1]]]}
{"reaction_name": "Aziridine opening", "rsmi": "[NH:1]1[CH2:3][CH2:4]1.[OH-:2]>>[NH-:1][CH2:4][CH2:3][OH:2]", "epd": [["LP-/Sigma+", [2], [2, 3]], ["Sigma-/LP+", [1, 3], [1]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[O-:2][c:17]1[cH:11][c:8](=[O:12])[n:18]([CH3:6])[c:14](=[O:5])[n:19]1[CH3:13].[cH:1]1[cH:3][cH:15][c:10]([N+:7](=[CH2:9])[CH3:20])[cH:16][cH:4]1>>[cH:1]1[cH:3][cH:15][c:10]([N:7]([CH2:9][CH:11]2[C:8](=[O:12])[N:18]([CH3:6])[C:14](=[O:5])[N:19]([CH3:13])[C:17]2=[O:2])[CH3:20])[cH:16][cH:4]1", "epd": [["LP-/Pi+", [2], [17, 2]], ["Pi-/Sigma+", [11, 17], [11, 9]], ["Pi-/LP+", [9, 7], [7]]]}
{"reaction_name": "Azetidine ring expansion", "rsmi": "[N+:1]1([H:7])([H:8])[CH2:3][CH2:2][CH2:4]1.[C-:5]#[N:6]>>[N:1]([H:7])([H:8])[CH2:3][CH2:2][CH2:4][C:5]#[N:6]", "epd": [["LP-/Sigma+", [5], [4, 5]], ["Sigma-/LP+", [1, 4], [1]]]}
{"reaction_name": "Cationic alkene polymerization", "rsmi": "[C+:2]([CH3:3])([CH3:4])[CH3:5].[CH2:1]=[C:6]([CH3:7])[CH3:8]>>[CH2:1]([C:2]([CH3:3])([CH3:4])[CH3:5])[C+:6]([CH3:7])[CH3:8]", "epd": [["Pi-/Sigma+", [1, 6], [1, 2]]]}
{"reaction_name": "Keck allylation", "rsmi": "[CH2:9]=[CH:12][CH2:10][Sn:11]([CH3:13])([CH3:14])[CH3:15].[O:1]=[CH:3][c:2]1[cH:7][cH:5][cH:4][cH:6][cH:8]1>>[O-:1][CH:3]([c:2]1[cH:7][cH:5][cH:4][cH:6][cH:8]1)[CH2:10][CH:12]=[CH2:9].[Sn+:11]([CH3:13])([CH3:14])[CH3:15]", "epd": [["Sigma-/Sigma+", [10, 11], [3, 10]], ["Pi-/LP+", [1, 3], [1]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:5](=[O+:21][CH3:20])[c:23]1[cH:16][cH:14][cH:10][cH:15][cH:17]1.[c:1]12[cH:11][c:22]([B-:19]([F:7])([F:8])[F:9])[n:6]([CH3:2])[c:13]1[cH:18][cH:4][cH:3][cH:12]2>>[c:1]12[cH:12][cH:3][cH:4][cH:18][c:13]1[N+:6]([CH3:2])=[C:22]([B-:19]([F:7])([F:8])[F:9])[CH:11]2[CH:5]([O:21][CH3:20])[c:23]1[cH:16][cH:14][cH:10][cH:15][cH:17]1", "epd": [["LP-/Pi+", [6], [22, 6]], ["Pi-/Sigma+", [11, 22], [11, 5]], ["Pi-/LP+", [5, 21], [21]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[Li+:20].[N:2]1([S:8][C:22]([F:9])([F:10])[F:11])[S:3](=[O:27])(=[O:28])[c:13]2[c:30]([cH:29][cH:14][cH:31][cH:33]2)[C:32]1=[O:25].[c:1]1([CH3:26])[o:21][c:7]([B-:23]23[O:4][CH2:17][C:15]([CH3:12])([CH2:18][O:5]2)[CH2:19][O:6]3)[cH:16][cH:24]1>>[Li+:20].[N:2]1=[C:32]([O-:25])[c:30]2[c:13]([cH:33][cH:31][cH:14][cH:29]2)[S:3]1(=[O:27])=[O:28].[O:4]1[CH2:17][C:15]2([CH3:12])[CH2:18][O:5][B:23]1[O:6][CH2:19]2.[c:1]1([CH3:26])[o:21][c:7]([S:8][C:22]([F:9])([F:10])[F:11])[cH:16][cH:24]1", "epd": [["Sigma-/Sigma+", [7, 23], [7, 8]], ["Sigma-/Pi+", [8, 2], [2, 32]], ["Pi-/LP+", [32, 25], [25]]]}
